US06649643B1
Production of 2-Hydroxy-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-N-methyl-1-naphthamide
6-Bromo-2-(tert-butyldimethylsilyloxy)-N-methyl-1-naphthamide (3.30 g) and 2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (2.66 g) were used as the starting materials. By the same procedure described in Reference example 33-(i), a crude mixture of 2-(tert-butyldimethylsilyloxy)-6-[1-hydroxy-2-methyl-1-(-1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-1-naphthamide was obtained. The crude mixture and tetrabutylammonium fluoride hydrate (3.00 g) was dissolved in THF (30 mL), and the solution was stirred for 1 h at room temperature. After dilution with water, the resulting mixture was extracted with AcOEt. The organic layer was washed with brine and dried over MgSO4 followed by concentrating in vacuo. The residue was purified by flash column chromatography on silica gel (hexane:AcOEt=2:1→1:2) to give a colorless solid. The solid was washed with iPr2O to afford the titled compound (1.48 g) as a colorless powder.

reactant | 6-Bromo-2-(tert-butyldimethylsilyloxy)-N-methyl-1-naphthamide | 3.30 g | BrC=1C=C2C=CC(=C(C2=CC1)C(=O)NC)O[Si](C)(C)C(C)(C)C | C18H24BrNO2Si
reactant | 2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 2.66 g | CC(C(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C26H26N2O
reactant | 2-(tert-butyldimethylsilyloxy)-6-[1-hydroxy-2-methyl-1-(-1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-1-naphthamide | [Si](C)(C)(C(C)(C)C)OC1=C(C2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C(=O)NC | C44H49N3O3Si
reactant | tetrabutylammonium fluoride hydrate | 3.00 g | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-Hydroxy-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-N-methyl-1-naphthamide | 1.48 g | OC1=C(C2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CNC1)O)C(=O)NC | C19H21N3O3
